US09421177B2
(S)-tert-butyl 2-cyanopyrrolidine-1-carboxylate (28)
To a flame dried flask was added 2 grams (9.3 mmols) of N-Boc proline followed by 93 ml, of dichloromethane and 4.24 grams (41.85 mmols) of triethylamine. The reaction mixture was then cooled to −25° C. and 2.5 grams (18.6 mmols) of iso-butylchloroformate was added dropwise. After stirring for 45 minutes at this low temperature, 0.83 grams (49 mmol) of ammonia was added to the reaction mixture as a 7N solution in methanol. The flask was allowed to warm to ambient temperature and stir for an additional 16 hours. After this time, the reaction mixture was evaporated to dryness and reconstituted in 200 mL of EtOAc. The organic layer was washed four 15 mL portions of 1N HCl, dried with MgSO4 and evaporated to dryness. The crude material was then immediately dehydrated to the nitrile according to general procedure E using 1.9 grams (18.88 mmols) of triethylamine and 2.34 grams (11.16 mmols) of trifluoroacetic anhydride in 93 mL of THF. After standard work-up and purification techniques (column chromatography, 25% EtOAc in hexanes), 0.91 grams (4.65 mmols, 50%) of the title product was recovered as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 4.53 (d, J=5.5 Hz, 0.5H), 4.48-4.38 (m, 0.5H), 3.57-3.41 (m, 1H), 3.41-3.22 (m, 1H), 2.31-1.92 (m, 4H), 1.47 (d, J=9.4 Hz, 9H). 13C NMR (75 MHz, CDCl3) δ 153.25, 119.38, 81.64, 47.39, 45.93, 31.86, 31.01, 28.52, 24.88, 24.04.

reactant | N-Boc proline | 9.3 mmols, 2 grams | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 41.85 mmols, 4.24 grams | C(C)N(CC)CC | C6H15N
reactant | iso-butylchloroformate | 18.6 mmols, 2.5 grams | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | 49 mmol, 0.83 grams | N | H3N
reactant | triethylamine | 18.88 mmols, 1.9 grams | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 11.16 mmols, 2.34 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methanol | CO | CH4O
solvent | THF | 93 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-tert-butyl 2-cyanopyrrolidine-1-carboxylate | 4.65 mmols, 0.91 grams, 50% | C(#N)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H16N2O2
